US07943788B2
5-Bromo-2-chloro-1-(5-trifluoromethyl-2-thienylmethyl)-benzene
2-Trifluoromethylthiophene (see Japanese Unexamined Patent Publication No. 2000-34239) and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 7 to give the target compound.

reactant | 2-Trifluoromethylthiophene | FC(C=1SC=CC1)(F)F | C5H3F3S
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-Bromo-2-chloro-1-(5-trifluoromethyl-2-thienylmethyl)-benzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)C(F)(F)F)Cl | C12H7BrClF3S
